US07598257B2
Step 3: 1-[(E)-2-Cyanovinyl]cyclopropanecarbonitrile
To a solution of 1.0 M potassium tert-butoxide in TBF (1.12 mL) at 0° C. was added slowly dropwise a solution of diethyl cyanomethylphosphonate (210 mg, 1.2 mmol) in THF (2 mL). The cold bath was removed and the reaction was warmed to ambient temperature. The solution was then re-cooled to 0° C. and a solution of 1-formylcyclopropanecarbonitrile (101 mg, 1.06 mmol) in THF (1.0 mL) was added dropwise. The cold bath was removed and the reaction was stirred for 3 hours at ambient temperature. The mixture was then diluted with ether and water, the ether solution was separated, washed with brine, dried over sodium sulfate, filtered and the solvent was removed in vacuo. Flash column chromatography (eluting with a gradient from 0-60% ethyl ether in hexanes) afforded the product (24 mg, 19%).

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 1.2 mmol, 210 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 1-formylcyclopropanecarbonitrile | 1.06 mmol, 101 mg | C(=O)C1(CC1)C#N | C5H5NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 1-[(E)-2-Cyanovinyl]cyclopropanecarbonitrile | 24 mg, 19% | C(#N)/C=C/C1(CC1)C#N | C7H6N2
